US07799775B2
A mixture of 420 mg of 3-methyl-2-methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one as synthesized in Step 7-29-A and 540 mg of 2-[4-(3-aminopropyl)piperazin-1-yl]quinoline as synthesized in above Step 7-29-B was heated under stirring at 140° C. for 6 hours. The residue was purified on silica gel column chromatography (chloroform:methanol=10:1) to provide 420 mg (48%) of 3-methyl-2-[3-(4-quinolin-2-ylpiperazin-1-yl)propylamino]-5,6,7,8-tetrahydro-3H-quinazolin-4-one.

reactant | 3-methyl-2-methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 420 mg | CN1C(=NC=2CCCCC2C1=O)SC | C10H14N2OS
reactant | 2-[4-(3-aminopropyl)piperazin-1-yl]quinoline | 540 mg | NCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C16H22N4
product | 3-methyl-2-[3-(4-quinolin-2-ylpiperazin-1-yl)propylamino]-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 420 mg, 48% | CN1C(=NC=2CCCCC2C1=O)NCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C25H32N6O
